US09169271B2
N-[3-[(4aR,7aS)-2-Amino-4a-fluoro-5,7-dihydro-4H-furo[3,4-d][1,3]thiazin-7a-yl]-4-fluoro-phenyl]-5-methoxy-pyrazine-2-carboxamide hydrochloride
Scheme 2, step K (amide formation): Oxalyl chloride (127 μL, 1.46 mmol) is added to a slurry of 5-methoxypyrazine-2-carboxylic acid (225 mg, 1.46 mmol) and dimethylformamide (113 μL, 1.46 mmol) in acetonitrile (6 mL). The resulting reaction is stirred for 90 mM This solution is added drop wise to a solution of (4aR,7aS)-7a-(5-amino-2-fluoro-phenyl)-4a-fluoro-5,7-dihydro-4H-furo[3,4-d][1,3]thiazin-2-amine (320 mg, 1.12 mmol) in ethanol (5.5 mL) and water (5.5 mL) at 50° C. The resulting solution is heated at 50° C. for 5 hours. The reaction is poured into a separatory funnel containing 200 mL NaHCO3 (aq). The sample is extracted with dichloromethane (3×200 mL). The organic layers are combined, washed with brine, and concentrated. The crude product is purified by silica gel flash chromatography, eluting with 7 M ammonia in methanol/dichloromethane (0/10) to 7 M ammonia in methanol/dichloromethane (1/10). This material is further purified by reverse phase flash chromatography using a 150 g high resolution C18 column and eluting with a 5-60% gradient of ACN in (10 mM ammonium bicarbonate aqueous solution with 5% MeOH). The eluent containing product is isolated and extracted with a 4:1 chloroform: isopropanol solution (3×50 mL). The organic layers are combined, washed with brine, dried over MgSO4, filtered, and concentrated to give the free base of the desired compound. This material is dissolved in dichloromethane (15 mL) and is treated with 4 M HCl in dioxane (900 μL, 3.6 mmol). The sample is concentrated to give the title compound (160 mg, 31.2%). ES/MS (m/e): 422.0 (M+1).

reactant | Oxalyl chloride | 1.46 mmol, 127 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-methoxypyrazine-2-carboxylic acid | 1.46 mmol, 225 mg | COC=1N=CC(=NC1)C(=O)O | C6H6N2O3
reactant | dimethylformamide | 1.46 mmol, 113 μL | CN(C=O)C | C3H7NO
reactant | (4aR,7aS)-7a-(5-amino-2-fluoro-phenyl)-4a-fluoro-5,7-dihydro-4H-furo[3,4-d][1,3]thiazin-2-amine | 1.12 mmol, 320 mg | NC=1C=CC(=C(C1)[C@@]12N=C(SC[C@@]1(COC2)F)N)F | C12H13F2N3OS
reactant | NaHCO3 | 200 mL | C(=O)(O)[O-].[Na+]
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
solvent | ethanol | 5.5 mL | C(C)O | C2H6O
solvent | water | 5.5 mL | O | H2O
product | N-[3-[(4aR,7aS)-2-Amino-4a-fluoro-5,7-dihydro-4H-furo[3,4-d][1,3]thiazin-7a-yl]-4-fluoro-phenyl]-5-methoxy-pyrazine-2-carboxamide hydrochloride | Cl.NC=1SC[C@]2([C@@](N1)(COC2)C=2C=C(C=CC2F)NC(=O)C2=NC=C(N=C2)OC)F | InChI=1S/C18H17F2N5O3S.ClH/c1-27-14-6-22-13(5-23-14)15(26)24-10-2-3-12(19)11(4-10)18-8-28-7-17(18,20)9-29-16(21)25-18;/h2-6H,7-9H2,1H3,(H2,21,25)(H,24,26);1H/t17-,18-;/m1./s1
